US04056536
2-Cyano-11H-pyrrolo[2,1-b][3]benzazepin-11-one (222 mg.) and 222 mg. nickel-aluminum alloy in 2 ml. 75% formic acid is refluxed for 11/2 hours. The solid is filtered off and washed with ethanol. The filtrate is diluted with 50 ml. water and extracted twice with 50 ml. methylene chloride. The organic layer is washed with water, 5% sodium bicarbonate and with water; it is then dried over magnesium sulfate and evaporated to dryness. Addition of ether induces crystallization and the crystals are filtered and air-dried to yield 2-formyl-11H-pyrrolo[2,1-b][3]benzazepin-11-one.

reactant | 2-Cyano-11H-pyrrolo[2,1-b][3]benzazepin-11-one | 222 mg | C(#N)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=O | C14H8N2O
reactant | formic acid | C(=O)O | CH2O2
catalyst | nickel-aluminum alloy | [Al].[Ni]
product | 2-formyl-11H-pyrrolo[2,1-b][3]benzazepin-11-one | C(=O)C=1C=C2C(C3=C(C=CN2C1)C=CC=C3)=O | C14H9NO2
